US06045590
Preparation of 4-(2'-methoxyethoxy)-2-methyl-1-naphthol
4.9g of concentrated sulfuric acid were added dropwise, with stirring, to a mixture of 4.75 g (27.6 mmole) of 2-methyl-1,4-naphthoquinone, 2.71 g (41.4 mmole) of zinc powder, 15 mL of 2-methoxyethanol and 15 mL of toluene, in an ice bath. After the addition was completed, the reaction mixture was stirred for 5 hours at 100° C. The reaction product was extracted with ethyl acetate, washed with water, then brine, dried over sodium sulfate, filtered, then evaporated under reduced pressure to give 4.87 g (76% yield) of the title compound. The resultant product had a melting point of 100-101° C. and an 1HNMR as follows: (300 Hz, DMSO-d6) δ 2.33 (s, 3H), 3.34 (s, 3H), 3.79 (t, 2H, J=4.5 Hz), 4.21 (t, 2H, J=4.5 Hz), 6.78(s, 1H), 7.47 (m, 2H), 8.08 (d, 1H, J=8.0 Hz), 8.14 (d, 1H, J=8.0 Hz), 8.54 (s, 1H). The mass spectrum showed a molecular ion at m/z 232.

reactant | sulfuric acid | 4.9g | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-1,4-naphthoquinone | 27.6 mmole, 4.75 g | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
reactant | 2-methoxyethanol | 15 mL | COCCO | C3H8O2
catalyst | zinc | 41.4 mmole, 2.71 g | [Zn] | Zn
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2'-methoxyethoxy)-2-methyl-1-naphthol | 4.87 g, 76% yield | COCCOC1=CC(=C(C2=CC=CC=C12)O)C | C14H16O3
